US08314081B2
To a 250 mL dry round bottom flask were added 2,6-dichloro-4-hydroxybenzaldehyde (5.73 g, 30.0 mmol), anhydrous CH2Cl2 (30 mL) and pyridine (3.0 mL, 36.5 mmol). The mixture was stirred in an ice-water bath, then a solution of isopropyl chloroformate in toluene (1.0 M, 33.4 mL) was added. After stirring at 0° C. for 2 hours, water (100 mL) and CH2Cl2 (50 mL) were added to the reaction mixture. The CH2Cl2 layer was separated, and the aqueous layer was extracted continually with CH2Cl2 (40 mL×3). The combined CH2Cl2 solution was dried over Na2SO4. After removal of the solvent, the residue was purified with a silica gel chromatography (heptane/ethyl acetate, gradient eluting) to give 3,5-dichloro-4-formylphenyl isopropyl carbonate (6.72 g) as a colorless oil. Yield: 81%. 1H NMR (CDCl3, 300 MHz): δ=10.53 (s, 1H), 7.41 (s, 2H), 5.09 (seventet, J=6.3 Hz, 1H), 1.48 (d, J=6.3 Hz, 6H). 13C NMR (CDCl3, 75.5 MHz): δ=187.8, 153.8, 151.5, 138.0, 127.8, 122.8, 74.6, 21.8.

reactant | 2,6-dichloro-4-hydroxybenzaldehyde | 30.0 mmol, 5.73 g | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
reactant | pyridine | 36.5 mmol, 3.0 mL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
solvent | toluene | 1.0 M, 33.4 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-formylphenyl isopropyl carbonate | 6.72 g, Yield: 81% | C(OC1=CC(=C(C(=C1)Cl)C=O)Cl)(OC(C)C)=O | C11H10Cl2O4
